US08431563B2
A 500 mL round-bottomed flask was charged with tert-butyl 4-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-1-piperazinecarboxylate (8.61 g, 23.0 mmol) and 100 mL of EtOH. To this was added bromine (1.30 mL, 25.3 mmol). After 15 min, the reaction was concentrated and purified via column chromatography (120 g of silica, 0 to 40% EtOAc in hexanes) to give tert-butyl 4-(2-bromo-4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-1-piperazinecarboxylate (6.50 g) as a tan foam.

reactant | tert-butyl 4-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-1-piperazinecarboxylate | 23.0 mmol, 8.61 g | FC(C(C)(O)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C18H25F3N2O3
reactant | bromine | 25.3 mmol, 1.30 mL | BrBr | Br2
solvent | EtOH | 100 mL | CCO | C2H6O
product | tert-butyl 4-(2-bromo-4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-1-piperazinecarboxylate | 6.50 g | BrC1=C(C=CC(=C1)C(C(F)(F)F)(C)O)N1CCN(CC1)C(=O)OC(C)(C)C | C18H24BrF3N2O3
